US07906517B2
3-(2-{(3,5-Bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-propan-1-ol (140 mg) is dissolved in methylene chloride (2 ml), and thereto is added 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one (188 mg) at room temperature and the mixture is stirred at room temperature overnight. Thereto are added ethyl acetate and a saturated brine, and the mixture is separated and the organic layer is washed with a saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue is dissolved in the mixed solvent of tert-butanol (4 ml) and water (1 ml) and thereto are added 2-methyl-2-butene (128 μl), sodium dihydrogenphosphate dihydrate (44 mg) and sodium chlorite (73 mg) and the mixture is stirred at room temperature for 30 minutes. Thereto are added ethyl acetate and a 1N-hydrochloric acid, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→2:3) to give 3-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-propionic acid (60 mg). The resulting carboxylic acid is dissolved in ethanol (0.5 ml), and thereto is added 1N-aqueous sodium hydroxide solution (85 μl) and the reaction solution is concentrated under reduced pressure to give 3-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-propionic acid sodium salt (60 mg). MS (m/z): 705 [M−Na]−.

reactant | 3-(2-{(3,5-Bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-propan-1-ol | 140 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCO)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CC2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C33H37F9N4O2
reactant | 1,1,1-tris(acetyloxy)-1,1-dihydro-1,2-benziodoxol-3-(1H)-one | 188 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-(cyclohexylmethyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-propionic acid | 60 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CC2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C33H35F9N4O3
